US08048909B2
N-Methyl-1-[1-(phenylsulfonyl)-5-(pyridin-2-yl)-1H-pyrrol-3-yl]methanamine oxalic acid salt
1-(Phenylsulfonyl)-5-(pyridin-2-yl)-1H-pyrrole-3-carbaldehyde (78 mg) was dissolved in methanol (10 mL), 40% methylamine methanol solution (100 mg) was added at room temperature, and the mixture was stirred for 30 min. Sodium borohydride (29 mg) was added at room temperature, and the mixture was stirred for 10 min. 1 mol/L Hydrochloric acid (20 mL) was added, and the mixture was stirred for 5 min. The reaction mixture was alkalized with a saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: ethyl acetate-methanol=1:0→7:3) and dissolved in ethyl acetate (10 mL). To the solution was added oxalic acid (50 mg) and the mixture was stirred for 15 min. The crystallized crystals were collected by filtration to give the title compound as colorless crystals (yield 47 mg, 45%).

reactant | 1-(Phenylsulfonyl)-5-(pyridin-2-yl)-1H-pyrrole-3-carbaldehyde | 78 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C=C1C1=NC=CC=C1)C=O | C16H12N2O3S
reactant | methylamine methanol | 100 mg | CO.CN
reactant | Sodium borohydride | 29 mg | [BH4-].[Na+]
reactant | Hydrochloric acid | 1 mol/L, 20 mL | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | N-Methyl-1-[1-(phenylsulfonyl)-5-(pyridin-2-yl)-1H-pyrrol-3-yl]methanamine oxalic acid salt | yield 47 mg, 45% | C(C(=O)O)(=O)O.CNCC1=CN(C(=C1)C1=NC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | InChI=1S/C17H17N3O2S.C2H2O4/c1-18-12-14-11-17(16-9-5-6-10-19-16)20(13-14)23(21,22)15-7-3-2-4-8-15;3-1(4)2(5)6/h2-11,13,18H,12H2,1H3;(H,3,4)(H,5,6)
